US04977267
Production of 4-[4-(piperidinomethyl)pyridyl-2-oxy]-cis-2-butenamine
0.78 g of 60% sodium hydride was suspended in 20 ml of anhydrous tetrahydrofuran, and 1.54 g (17.7 mM) of 4-amino-cis-2-buten-1-ol was slowly added. The mixture was refluxed with stirring for 20 minutes. Then, under ice cooling, a solution of 3.00 g (11.8 mM) of 2-bromo-4-(piperidinomethyl)pyridine in 10 ml of tetrahydrofuran was added slowly to the mixture, and the entire mixture was then refluxed for 48 hours with stirring. After the reaction, the insoluble matter was removed by filtration, and the solvent was evaporated from the filtrate. The residue was extracted with 100 ml of dichloromethane three times. The extracts were dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography using a 1:3 mixture of methanol and ethyl acetate as an eluent to give 1.49 g (yield 48%) of the compound as a pale brown oil.

reactant | sodium hydride | 0.78 g | [H-].[Na+]
reactant | 4-amino-cis-2-buten-1-ol | 17.7 mM, 1.54 g | NC\C=C/CO | C4H9NO
reactant | 2-bromo-4-(piperidinomethyl)pyridine | 11.8 mM, 3.00 g | BrC1=NC=CC(=C1)CN1CCCCC1 | C11H15BrN2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[4-(piperidinomethyl)pyridyl-2-oxy]-cis-2-butenamine | 1.49 g, yield 48% | C1CCN(CC1)CC2=CC(=NC=C2)OC/C=C/CN | C15H23N3O
